US07220744B2
b) 4-(5-Formyl-thiazol-2-yl)-piperazine-1-carboxylic acid tert-butyl ester
To a solution of 40.0 mmol 4-(5-hydroxymethyl-thiazol-2-yl)-piperazine-1-carboxylic acid tert-butyl ester in 300 ml dichloromethane was added 289 mmol manganese(IV) oxide and the mixture was heated at reflux for 3 h. The mixture was then filtered and the filtrate was concentrated in vacuo. The residue was purified by chromatography (SiO2, ethyl acetate/heptane) to afford the title compound as a light brown crystalline solid (yield 40%). MS (m/e): 298.3 (M+H+, 100%).

reactant | 4-(5-hydroxymethyl-thiazol-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | 40.0 mmol | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1SC(=CN1)CO | C13H21N3O3S
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
catalyst | manganese(IV) oxide | 289 mmol | [O-2].[Mn+4].[O-2]
product | 4-(5-Formyl-thiazol-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | yield 40% | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1SC(=CN1)C=O | C13H19N3O3S
